US07452992B2
The above tert-butyl 2-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-2-phenylmorpholine-4-carboxylate was stirred in 4 mL of a 1 M solution of tetrabutylammonium fluoride in THF for 1 h at room temperature. The reaction mixture was then diluted with CHCl3, washed with saturated aqueous NaHCO3, and purified (1:1 hex:EtOAc) to provide tert-butyl 2-(2-hydroxyethyl)-2-phenylmorpholine-4-carboxylate (449 mg, 83%) as an oil: 1H NMR (400 MHz, CDCl3), δ 7.47-7.41 (m, 2H), 7.40-7.35 (m, 2H), 7.28 (m, 1H), 4.34 (m, 1H), 3.77-3.63 (m, 2H), 3.63-3.48 (m, 3H), 3.35 (m, 1H), 3.17 (m, 1H), 2.08 (m, 1H), 1.89 (m, 1H), 1.50-1.37 (br., 9H); ESI-MS 330 (M+Na).

reactant | tert-butyl 2-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-2-phenylmorpholine-4-carboxylate | [Si](C)(C)(C(C)(C)C)OCCC1(CN(CCO1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C23H39NO4Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl 2-(2-hydroxyethyl)-2-phenylmorpholine-4-carboxylate | 449 mg, 83% | OCCC1(CN(CCO1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C17H25NO4
